2115-03-24 09:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: hypoxemic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2115-3-23**] 11:14 AM
   dual lumen
 EKG - At [**2115-3-23**] 12:48 PM
 STOOL CULTURE - At [**2115-3-23**] 04:47 PM
On and off mask ventilation
   History obtained from Medical records
   Patient unable to provide history: CP - nonverbal at baseline
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-3-23**] 11:22 PM
   Metronidazole - [**2115-3-24**] 02:00 AM
   Vancomycin - [**2115-3-24**] 08:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-24**] 08:13 AM
   Heparin Sodium (Prophylaxis) - [**2115-3-24**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-24**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.3
C (97.4
   HR: 134 (118 - 134) bpm
   BP: 97/63(140) {80/57(63) - 101/79(140)} mmHg
   RR: 34 (14 - 55) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,604 mL
                                                                  1,592 mL
   PO:
             TF:
   IVF:
                                                                  2,025 mL
                                                                  1,196 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                  1,185 mL
   Urine:
                                                                    590 mL
                                                                    485 mL
   NG:
   700 mL
   Stool:
   Drains:
   Balance:
                                                                  2,014 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 687 (320 - 710) mL
   PS : 18 cmH2O
   RR (Set): 35
   RR (Spontaneous): 25
   PEEP: 4 cmH2O
   FiO2: 100%
   PIP: 23 cmH2O
   SpO2: 94%
   ABG: ///28/
   Ve: 13 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   168 K/uL
   133 mg/dL
   0.6 mg/dL
   28 mEq/L
   4.4 mEq/L
   24 mg/dL
   107 mEq/L
   141 mEq/L
   26.3 %
   6.8 K/uL
        [image002.jpg]
                             [**2115-3-23**]  03:16 PM
                             [**2115-3-23**]  03:47 PM
                             [**2115-3-24**]  01:45 AM
   WBC
   6.8
   Hct
   29
   26.3
   Plt
   168
   Cr
   0.6
   0.6
   Glucose
   118
   133
   Other labs: ALT / AST:29/31, Alk Phos / T Bili:105/0.5, Amylase /
   Lipase:/11, Lactic Acid:0.8 mmol/L, Albumin:2.6 g/dL, LDH:415 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Hypoxemic respiratory failure:
   -hypoxemia with respiratory alkalosis
   -waxing and [**Doctor Last Name 282**] resp status.  able to take off mask ventilation but
   now back on this morning
   -cxr worsening - now b/l diffuse process across all lung fields
   -CT chest to better characterize process
   -afebrile, wbc remains wnl though did have fever preceding 24hrs
   -leading dx HAP vs. aspiration PNA though other processes remain
   possible
   -broad abx coverage for HAP
    Tachycardia
   -persistent despite resolution of fever and IVF boluses
   -cont to fluid bolus
   -currently maintaining bp within pt
s usual range, no signs of
   perfusion issues at present, lactate not elevated.
   Anemia/bleed:
   -h/o rp bleed, varices so follow hct trend closely
   -hct down 2 points but sig positive fluid balance
   - Guaiac stools
   SMV thrombus:
   Seizure disorder:
   -no sz activity No
   - Continue phenobarbitol and phenytoin
   Cerebral palsy:
   Remainder of plan as outlined in resident note.
   Above discussed with patient's mother during [**Name2 (NI) 1812**].
   Pt is critically ill.  Time spent on care: 50minutes.
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2115-3-23**] 06:36 PM 45.[**Telephone/Fax (5) 542**] mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :
   Total time spent:
   ------ Protected Section ------
   I did not document his examination in the note above.  It was as
   follows:
   Exam:
   Awake, alert. Mom says pt is more interactive today -- at his baseline
   interactivity this morning
   Supine in bed.  Mask ventilation.
   Lungs
 bronchial breath sounds b/l greater on left
   CV
 tachy 2/6 SEM
   Abd - soft NTND BS+
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) 323**], MD
   on:[**2115-3-24**] 17:09 ------

2115-03-25 10:05:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man who has been in hospital some time, with cerebral palsy, non
   verbal.  admitted [**Doctor Last Name **] [**Month (only) **] with acute abdomen, peritonitis, chronic
   pancreatitits.  found to have SMV thrombus, anticoagulated, then
   developed retoperitoneal hemorrhage.  Was on floor readmitted with
   progressive hypoxemia, intubated.  Had CT with ? of liver abscess.
   CTA with LLL and RLL PNA and atelectasis, and effusions.
   24 Hour Events:
 EKG - At [**2115-3-24**] 09:10 AM
 ARTERIAL LINE - START [**2115-3-24**] 11:10 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-3-24**] 10:20 PM
   Metronidazole - [**2115-3-25**] 02:20 AM
   Vancomycin - [**2115-3-25**] 09:12 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2115-3-24**] 10:26 AM
   Fentanyl - [**2115-3-24**] 05:51 PM
   Midazolam (Versed) - [**2115-3-25**] 04:24 AM
   Other medications:
   SSI
   phosphenytoin
   phenobarb
   FeSO4
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-25**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.9
   HR: 124 (111 - 136) bpm
   BP: 96/69(81) {77/55(64) - 96/69(250)} mmHg
   RR: 27 (23 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  4,407 mL
                                                                    487 mL
   PO:
                                                                    900 mL
             TF:
   IVF:
                                                                  2,524 mL
                                                                    487 mL
   Blood products:
   Total out:
                                                                  2,500 mL
                                                                    600 mL
   Urine:
                                                                  1,800 mL
                                                                    600 mL
   NG:
                                                                    700 mL
   Stool:
   Drains:
   Balance:
                                                                  1,907 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 300 (260 - 300) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 97%
   ABG: 7.40/45/147/26/2
   Ve: 8.6 L/min
   PaO2 / FiO2: 367
   Physical Examination:
   Awake, not following commands:
   lungs rhoncherous
   CV: reg
   Abd:  distended, firm, poor BS.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   142 K/uL
   141 mg/dL
   0.6 mg/dL
   26 mEq/L
   4.1 mEq/L
   23 mg/dL
   106 mEq/L
   138 mEq/L
   24.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2115-3-23**]  03:16 PM
                             [**2115-3-23**]  03:47 PM
                             [**2115-3-24**]  01:45 AM
                             [**2115-3-25**]  12:28 AM
                             [**2115-3-25**]  02:57 AM
                             [**2115-3-25**]  03:14 AM
                             [**2115-3-25**]  05:21 AM
   WBC
   6.8
   5.8
   Hct
   29
   26.3
   24.7
   Plt
   168
   142
   Cr
   0.6
   0.6
   0.6
   TropT
   0.01
   TCO2
   27
   30
   29
   Glucose
   118
   133
   141
   Other labs: PT / PTT / INR:14.1/34.6/1.2, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:29/31, Alk Phos / T Bili:105/0.5, Amylase
   / Lipase:/11, Lactic Acid:1.0 mmol/L, Albumin:2.6 g/dL, LDH:415 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):   Severe LUL PNA  -
   continue vanco/cefepime.    Check sputum cx.
   Abdominal distension:  has some ascites on exam, but looks more to be
   significant bowel distension.  Will try NGT to suction.
   tachycardia:  slightly hyperdynamic in the setting of infection.
   Liver lesion:  Will await for final abdominal CT read.
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER:  left humerus  not tolerating sling.
   SMV thrombosis:  not candidate for anticoagulation.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   20 Gauge - [**2115-3-24**] 11:42 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2115-03-26 12:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man with CP, with prolonged hospitalization for peritonitis,
   sepsis, respiratory failure, SMV thrombosis, course c/b retroperitonial
   hemorrhage.  Had episode of decreased alertness and apnea yesterday
   evening which has now resolved.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2115-3-25**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2115-3-25**] 11:03 AM
 FEVER - 102.3
F - [**2115-3-25**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-25**] 08:00 PM
   Cefipime - [**2115-3-25**] 10:00 PM
   Metronidazole - [**2115-3-26**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Norepinephrine - 0.07 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-3-25**] 01:44 PM
   Pantoprazole (Protonix) - [**2115-3-26**] 08:00 AM
   Other medications:
   phenobarbital
   cefepime
   lidocaine patch
   flagyl
   vanco
   protonix
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-26**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 39.1
C (102.3
   Tcurrent: 36.8
C (98.2
   HR: 121 (100 - 131) bpm
   BP: 92/66(77) {74/57(64) - 108/76(89)} mmHg
   RR: 28 (15 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,247 mL
                                                                    592 mL
   PO:
             TF:
   IVF:
                                                                  1,752 mL
                                                                    502 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,275 mL
                                                                  1,180 mL
   Urine:
                                                                  1,275 mL
                                                                    530 mL
   NG:
   150 mL
   Stool:
   Drains:
   Balance:
                                                                    972 mL
                                                                   -588 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 399 (345 - 445) mL
   PS : 18 cmH2O
   RR (Set): 12
   RR (Spontaneous): 33
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 97%
   ABG: 7.44/38/102/23/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, makes eye contact to voice
   [**Name (NI) 610**] / Radiology
   8.9 g/dL
   195 K/uL
   157 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   23 mg/dL
   107 mEq/L
   138 mEq/L
   27.2 %
   10.1 K/uL
        [image002.jpg]
                             [**2115-3-25**]  12:28 AM
                             [**2115-3-25**]  02:57 AM
                             [**2115-3-25**]  03:14 AM
                             [**2115-3-25**]  05:21 AM
                             [**2115-3-25**]  12:25 PM
                             [**2115-3-25**]  01:30 PM
                             [**2115-3-25**]  06:52 PM
                             [**2115-3-25**]  07:01 PM
                             [**2115-3-26**]  02:03 AM
                             [**2115-3-26**]  02:19 AM
   WBC
   5.8
   10.1
   Hct
   24.7
   23.8
   23.1
   27.2
   Plt
   142
   195
   Cr
   0.6
   0.7
   TCO2
   27
   30
   29
   28
   28
   27
   Glucose
   141
   157
   Other [**Year (4 digits) **]: PT / PTT / INR:15.0/31.5/1.3, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:0.8 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Respiratory failure:  Aspiration PNA wth GPCs in sputum.  Also with
   evidence of volume overload.  Will try and diurese.
   PNA:  continue broad spectrum antibiotics.
   HOTN:  will target MAP of 65, and wean down levophed.
   Anemia:  appropriate Hct bump with transfusion
   liver abscess:  repeat ultrasound tomorrow
   seizure yesterday.  Dilantin level corrected is therapeutic.
   continue TPN.  Start low dose TFs.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   20 Gauge - [**2115-3-24**] 11:42 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2115-03-27 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man with CP, respiratory failure, sepsis from aspiration.
   Levophed increased overnight and then weaned down.  Diuresed overnight.
   24 Hour Events:
 PAN CULTURE - At [**2115-3-26**] 04:00 PM
 FEVER - 101.1
F - [**2115-3-26**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-26**] 08:00 PM
   Cefipime - [**2115-3-26**] 11:00 PM
   Metronidazole - [**2115-3-27**] 01:22 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-26**] 08:00 PM
   Fosphenytoin - [**2115-3-26**] 11:59 PM
   Other medications:
   SSI
   phosphenytoin
   phenobarb
   lidocaine
   FeSO4
   pancrealipase
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-27**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.6
   HR: 123 (102 - 132) bpm
   BP: 85/64(73) {79/61(70) - 115/87(97)} mmHg
   RR: 27 (16 - 34) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,206 mL
                                                                  1,116 mL
   PO:
             TF:
                                                                     65 mL
                                                                    175 mL
   IVF:
                                                                  1,166 mL
                                                                    336 mL
   Blood products:
   Total out:
                                                                  2,545 mL
                                                                  1,310 mL
   Urine:
                                                                  1,895 mL
                                                                  1,310 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 351 (312 - 402) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 141
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   Compliance: 23.4 cmH2O/mL
   SpO2: 96%
   ABG: 7.45/33/125/24/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 313
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, eyes open, not
   interactive
   Labs / Radiology
   9.5 g/dL
   206 K/uL
   99 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   26 mg/dL
   107 mEq/L
   140 mEq/L
   28.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2115-3-25**]  01:30 PM
                             [**2115-3-25**]  06:52 PM
                             [**2115-3-25**]  07:01 PM
                             [**2115-3-26**]  02:03 AM
                             [**2115-3-26**]  02:19 AM
                             [**2115-3-26**]  03:29 PM
                             [**2115-3-26**]  03:46 PM
                             [**2115-3-26**]  06:28 PM
                             [**2115-3-27**]  03:24 AM
                             [**2115-3-27**]  03:52 AM
   WBC
   10.1
   8.1
   Hct
   23.8
   23.1
   27.2
   27.5
   28.9
   Plt
   195
   206
   Cr
   0.7
   0.6
   TCO2
   28
   27
   23
   22
   24
   Glucose
   157
   99
   Other labs: PT / PTT / INR:15.6/25.5/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**3-24**] Sputum Cx:  with staph
   [**3-25**] Sputum Cx:  GNRs
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Improved respiratory
   status.  Continue to wean as tolerated.
   HAP:  continue 8 day course of vanco/cefepime/flagyl
   fluid overload:  continue diuresis with lasix.  goal 500cc negative
   fevers: abd u/s without evidence of abscess.
 SEIZURE, WITHOUT STATUS EPILEPTICUS: no further seizures
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER:  left humeral
   will try and meet family today to discuss overall progress
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2115-3-26**] 06:00 PM 45 mL/hour
   Comments: advance TFs as tolerated
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   20 Gauge - [**2115-3-24**] 11:42 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2115-03-28 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2115-3-27**] 09:53 AM
 FEVER - 101.1
F - [**2115-3-27**] 08:00 AM
   [**2115-3-27**]:
   - Diuresed with lasix - negative 760 for day.
   - continues on levophed (0.08 this AM)
   - no overnight events
   - continuing to wean PSV; will attempt SBT this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-3-27**] 11:00 AM
   Vancomycin - [**2115-3-27**] 08:42 PM
   Metronidazole - [**2115-3-28**] 01:51 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-27**] 12:48 PM
   Pantoprazole (Protonix) - [**2115-3-27**] 08:42 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.9
C (100.2
   HR: 118 (108 - 132) bpm
   BP: 85/62(72) {74/54(63) - 103/77(87)} mmHg
   RR: 27 (19 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,938 mL
                                                                    973 mL
   PO:
             TF:
                                                                    710 mL
                                                                    345 mL
   IVF:
                                                                    938 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                    510 mL
   Urine:
                                                                  3,120 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -682 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 445 (330 - 445) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 21 cmH2O
   SpO2: 96%
   ABG: 7.40/45/99.[**Numeric Identifier 8**]/25/1  (TV325, FiO240, rate21, peep 8)
   Ve: 7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice
   HEENT: Sclera anicteric, eyes sunken, MMM, audible secretions
   Neck: Supple, thin, EJs prominent and hyperdynamic, no LAD
   Lungs: Intubated, coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: foley catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   171 K/uL
   9.1 g/dL
   136 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   28.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2115-3-26**]  02:19 AM
                             [**2115-3-26**]  03:29 PM
                             [**2115-3-26**]  03:46 PM
                             [**2115-3-26**]  06:28 PM
                             [**2115-3-27**]  03:24 AM
                             [**2115-3-27**]  03:52 AM
                             [**2115-3-27**]  11:49 AM
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
   WBC
   8.1
   6.5
   Hct
   27.5
   28.9
   28.1
   Plt
   206
   171
   Cr
   0.6
   0.6
   0.6
   TCO2
   27
   23
   22
   24
   27
   29
   Glucose
   99
   153
   136
   Other labs: PT / PTT / INR:16.1/28.6/1.4,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Lactate: 0.9
   RUQ U/S:
   1. No son[**Name (NI) 330**] correlate corresponding to the hypoenhancing lesion
   seen on prior CT of [**2115-3-24**] is seen. Lesion seen on CT could
   represent an infarct secondary to compromised blood supply through the
   right portal vein, which appears nearly occluded.
   2. Right pleural effusion and ascites.
   Sputum growing MRSA ([**3-24**]) and rare gram negative rods ([**3-25**])
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course,
   now with new fever, tachypnea, and hypoxia.
   .
   # Respiratory failure:   Patient transferred to MICU with tachypnea and
   hypoxia on [**2115-3-23**] and intubated on [**2115-3-24**].  Given his new fever,
   respiratory deterioration, and imaging findings consistent with
   multilobar pneumonia he was started on vancomycin, cefepime and flagyl
   (concern for aspiration given recently started tube feeds).  Sputum
   growing MRSA.  Pleural effusions also noted on imaging, likely due to
   fluid resuscitation for hypotension in the setting of albumin of 2.3,
   so over the past 24 hours have been diuresing with lasix boluses.  PE
   considered but CTA negative.
   - continue antibiotic coverage for HAP/aspiration PNA with vanc,
   cefepime, metronidazole x total 8 days (Day 1 = [**3-23**])
   - continue with daily RSBI and SBT as tolerated, attempt to wean to
   PSV; reduced PEEP from 8 to 5 this morning without problems
   - ABG later today
   - gentle diuresis with IV lasix boluses to goal net negative 500cc
   - [**Hospital1 **] electrolytes with repletion while on Lasix
   - f/u blood cultures
   .
   # Fever/sepsis: Pt febrile with tachycardia and tachypnea; meets
   definition of sepsis with most likely source being pulmonary (MRSA).
   With ascites, SBP is also possible although he is now s/p 3 taps which
   have not been c/w SBP. Urinalysis and culture from [**3-23**] with staph spp
   but repeat appears clean with NGTD.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] with no obvious
   nuchal rigidity although exam limited by pt cooperation.  Again, PE
   could cause similar sx of fever and respiratory distress but none seen
   on CTA. Continues febrile daily. No further episodes of AMS. CT read as
   possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Continues to have
   fever to 101 on [**2-24**] overnight but normal white count, lactate normal.
   - Broad abx as above with good gram positive, gram neg, and anaerobic
   coverage. Consider adding additional coverage for double gram negative
   coverage if WBC does not continue trending down.
   - Goal CVP 8-12 but no measurements available currently
 will bolus
   for tachycardia, UOP < 30cc/h, goal MAP >60, CvO2 >70
   - Pressors for MAP > 60, wean levophed as tolerated (may be easier once
   extubated and off sedation)
   - Monitor mental status
   - Consider paracentesis if continues febrile and no other source (would
   likely need to be done by IR)
   .
   #Hypotension. Continues to wean from levophed
 currently at 0.06.
   [**Month/Year (2) **] pressures run low and currently sedated which may contribute.
   MAP goal > 60. No further episodes of AMS since starting pressors on
   [**3-25**].
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at [**Month/Year (2) 4578**] and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Abx as above
   - Fluid boluses prn, though patient with [**Month/Year (2) 4578**] heart rate 110s;
   appears hypervolemic
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - continue pantoprazole 40mg IV bid
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin
   - drug levels stable as of [**3-27**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at [**Date Range 4578**].
   .
   FEN: NG tube likely in duodenum, bolus IVF prn, TPN; continue tube
   feeds today
   PROPHYLAXIS: pneumoboots, IV PPI
   ACCESS: PICC, PIV, A-line in right brachial artery
   CODE: Do not resuscitate. Ok to intubate or use pressors. No CPR or
   defibrillation
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2115-3-27**] 06:14 PM 45 mL/hour
   Vivonex (Full) - [**2115-3-28**] 03:32 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   20 Gauge - [**2115-3-24**] 11:42 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-03-28 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo with CP, apiration PNA, continued ventilator requirement.
   24 Hour Events:
 ULTRASOUND - At [**2115-3-27**] 09:53 AM
 FEVER - 101.1
F - [**2115-3-27**] 08:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-27**] 08:42 PM
   Metronidazole - [**2115-3-28**] 09:01 AM
   Cefipime - [**2115-3-28**] 10:02 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 30 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-27**] 12:48 PM
   Pantoprazole (Protonix) - [**2115-3-27**] 08:42 PM
   Other medications:
   SSI
   phosphenytoin
   phenobarb
   lidocaine patch
   FeSO4
   pancrealipase
   protonix
   chlorhexidine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-28**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38
C (100.4
   Tcurrent: 37.6
C (99.7
   HR: 126 (108 - 130) bpm
   BP: 85/63(73) {74/54(63) - 101/77(86)} mmHg
   RR: 35 (19 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,938 mL
                                                                  1,373 mL
   PO:
             TF:
                                                                    710 mL
                                                                    396 mL
   IVF:
                                                                    938 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                    570 mL
   Urine:
                                                                  3,120 mL
                                                                    570 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -682 mL
                                                                    803 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (328 - 445) mL
   PS : 10 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 145
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.44/36/86.[**Numeric Identifier **]/25/0
   Ve: 10.4 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   171 K/uL
   136 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.8 mEq/L
   29 mg/dL
   105 mEq/L
   139 mEq/L
   28.1 %
   6.5 K/uL
        [image002.jpg]
                             [**2115-3-26**]  03:46 PM
                             [**2115-3-26**]  06:28 PM
                             [**2115-3-27**]  03:24 AM
                             [**2115-3-27**]  03:52 AM
                             [**2115-3-27**]  11:49 AM
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
   WBC
   8.1
   6.5
   Hct
   28.9
   28.1
   Plt
   206
   171
   Cr
   0.6
   0.6
   0.6
   TCO2
   23
   22
   24
   27
   29
   27
   25
   Glucose
   99
   153
   136
   Other labs: PT / PTT / INR:16.1/28.6/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.2 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Aspiration PNA.
   Continue broad spectrum antibiotics - sputum with more than one
   organism.  Day [**4-20**]
                       - Continue to diurese for volume overload - aim
   net out 500 cc
   septic shock:  wean pressors as tolerated.  On sedation which is likely
   dropping his BP a bit.  On only low dose levophed
   Fevers:  no clear source, WBC trending down, and overall doing well, so
   will follow for now.
   Anemia:  hct stable
   SMV thrombosis
   retroperitoneal hemorrhage
   ICU Care
   Nutrition: Now off TPN, tolerating TFs at full rate
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   20 Gauge - [**2115-3-24**] 11:42 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:  s/q hep
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   Spoke with Mr. [**Known lastname 11934**]
s mother, father, and uncle.  Explained to them
   that Mr. [**Known lastname 11934**] has been very ill, in the hospital for 6 weeks.
   There is a significant chance that he will not be able to come off the
   vent, and will be reintubated after extubation.   In this case he would
   require tracheostomy and prolonged ventilator weaning.  Given his
   underlying illness with cerebral palsy his chances of returning to the
   quality of life that he had before this illness very poor, but not
   inconceivable.  Given this they might want to think about whether or
   not they would want a tracheostomy for him, with the knowledge that
   this would mean a prolonged ventilator wean at a rehab facility with
   uncertainty about his chances for recovery.  They said that they would
   think about it.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2115-3-28**] 15:12 ------

2115-03-29 07:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pressure support 10, PEEP 5 overnight; initially off fent/versed, but
   then agitated so got versed
   - A-line no longer drawing well/no longer with accurate tracing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-3-28**] 10:02 AM
   Metronidazole - [**2115-3-28**] 05:34 PM
   Vancomycin - [**2115-3-28**] 07:55 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-28**] 12:10 PM
   Fosphenytoin - [**2115-3-28**] 11:54 PM
   Midazolam (Versed) - [**2115-3-29**] 05:53 AM
   Other medications:
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unchanged
   Flowsheet Data as of  [**2115-3-29**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 111 (111 - 141) bpm
   BP: 102/89(95) {71/51(60) - 107/93(96)} mmHg
   RR: 23 (23 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,638 mL
                                                                    586 mL
   PO:
             TF:
                                                                  1,180 mL
                                                                    385 mL
   IVF:
                                                                    800 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    330 mL
   Urine:
                                                                  2,325 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    256 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 328 (177 - 355) mL
   PS : 10 cmH2O
   RR (Spontaneous): 38
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: 7.49/34/82.[**Numeric Identifier **]/26/2
   Ve: 11.3 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice
   HEENT: Sclera anicteric, eyes sunken, MMM, audible secretions
   Neck: Supple, thin, EJs prominent and hyperdynamic, no LAD
   Lungs: Intubated, coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: foley catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   216 K/uL
   9.9 g/dL
   116 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   138 mEq/L
   30.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2115-3-27**]  03:52 AM
                             [**2115-3-27**]  11:49 AM
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
   WBC
   6.5
   10.7
   Hct
   28.1
   30.4
   Plt
   171
   216
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   27
   29
   27
   25
   27
   Glucose
   153
   136
   118
   116
   Other labs: PT / PTT / INR:15.5/27.2/1.4
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   phenytoin: 12.4 phenobarb: 13.4
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course,
   now with new fever, tachypnea, and hypoxia.
   .
   # Respiratory failure:   Patient transferred to MICU with tachypnea and
   hypoxia on [**2115-3-23**] and intubated on [**2115-3-24**].  Given his new fever,
   respiratory deterioration, and imaging findings consistent with
   multilobar pneumonia he was started on vancomycin, cefepime and flagyl
   (concern for aspiration given recently started tube feeds).  Sputum
   growing MRSA.  Pleural effusions also noted on imaging, likely due to
   fluid resuscitation for hypotension in the setting of albumin of 2.3,
   so over the past 24 hours have been diuresing with lasix boluses.  PE
   considered but CTA negative.
   - continue antibiotic coverage for HAP/aspiration PNA with vanc,
   cefepime, metronidazole x total 8 days (Day 1 = [**3-23**])
   - continue with daily RSBI and SBT as tolerated, attempt to wean to
   PSV; reduced PEEP from 8 to 5 this morning without problems
   - ABG later today
   - gentle diuresis with IV lasix boluses to goal net negative 500cc
   - [**Hospital1 **] electrolytes with repletion while on Lasix
   - f/u blood cultures
   .
   # Fever/sepsis: Pt febrile with tachycardia and tachypnea; meets
   definition of sepsis with most likely source being pulmonary (MRSA).
   With ascites, SBP is also possible although he is now s/p 3 taps which
   have not been c/w SBP. Urinalysis and culture from [**3-23**] with staph spp
   but repeat appears clean with NGTD.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] with no obvious
   nuchal rigidity although exam limited by pt cooperation.  Again, PE
   could cause similar sx of fever and respiratory distress but none seen
   on CTA. Continues febrile daily. No further episodes of AMS. CT read as
   possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Continues to have
   fever to 101 on [**2-24**] overnight but normal white count, lactate normal.
   - Broad abx as above with good gram positive, gram neg, and anaerobic
   coverage. Consider adding additional coverage for double gram negative
   coverage if WBC does not continue trending down.
   - Goal CVP 8-12 but no measurements available currently
 will bolus
   for tachycardia, UOP < 30cc/h, goal MAP >60, CvO2 >70
   - Pressors for MAP > 55-60, off vasopressors
   - Monitor mental status
   - Consider paracentesis if continues febrile and no other source (would
   likely need to be done by IR)
   .
   #Hypotension. Continues to wean from levophed
 currently at 0.06.
   [**Month/Year (2) **] pressures run low and currently sedated which may contribute.
   MAP goal > 60. No further episodes of AMS since starting pressors on
   [**3-25**].
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at [**Month/Year (2) 4578**] and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Abx as above
   - Fluid boluses prn, though patient with [**Month/Year (2) 4578**] heart rate 110s;
   appears hypervolemic
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - continue pantoprazole 40mg IV bid
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin
   - drug levels stable as of [**3-27**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at [**Date Range 4578**].
   .
   FEN: NG tube likely in duodenum, bolus IVF prn, TPN; continue tube
   feeds today
   PROPHYLAXIS: pneumoboots, IV PPI
   ACCESS: PICC, PIV, D/C A-line in right brachial artery
   CODE: Do not resuscitate. Ok to intubate or use pressors. No CPR or
   defibrillation
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-3-29**] 06:45 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-03-29 11:53:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man with cerebral palsy.   Weaned off pressors and peep weaned
   down.  Weaned off sedation.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2115-3-28**] 10:02 AM
   Vancomycin - [**2115-3-28**] 07:55 PM
   Metronidazole - [**2115-3-29**] 10:41 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-28**] 12:10 PM
   Fosphenytoin - [**2115-3-28**] 11:54 PM
   Midazolam (Versed) - [**2115-3-29**] 05:53 AM
   Other medications:
   SSI
   phosphenytoin
   phenobarb
   lidocaine
   FeSO4
   pancrealipase
   protonix
   chlorhexidine
   levophed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-29**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (98.9
   HR: 117 (111 - 141) bpm
   BP: 96/71(82) {77/55(65) - 107/93(96)} mmHg
   RR: 33 (21 - 34) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,638 mL
                                                                    960 mL
   PO:
             TF:
                                                                  1,180 mL
                                                                    577 mL
   IVF:
                                                                    800 mL
                                                                    282 mL
   Blood products:
   Total out:
                                                                  2,325 mL
                                                                    505 mL
   Urine:
                                                                  2,325 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    313 mL
                                                                    455 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 324 (177 - 355) mL
   PS : 10 cmH2O
   RR (Spontaneous): 36
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 121
   PIP: 16 cmH2O
   SpO2: 92%
   ABG: 7.49/34/82.[**Numeric Identifier **]/26/2
   Ve: 11.5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended, firm
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   216 K/uL
   116 mg/dL
   0.7 mg/dL
   26 mEq/L
   4.2 mEq/L
   29 mg/dL
   105 mEq/L
   138 mEq/L
   30.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2115-3-27**]  03:52 AM
                             [**2115-3-27**]  11:49 AM
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
   WBC
   6.5
   10.7
   Hct
   28.1
   30.4
   Plt
   171
   216
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   24
   27
   29
   27
   25
   27
   Glucose
   153
   136
   118
   116
   Other labs: PT / PTT / INR:15.5/27.2/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Wean PSV to [**4-17**].
   Pulmonary edema:  continue lasix diuresis
   HAP:  Continue antibiotics for 8 days.
   Will remove a-line
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   ------ Protected Section ------
   Spoke with patient
s mother, father, uncles and aunt.  Explained to
   them that he is close to a trial of extubation, but there is a
   significant chance that he would not be able to protect airway and is
   at risk for reintubation.  In this case he would need a tracheostomy
   for continued vent weaning.  However given his prolonged illess (6
   weeks in hospital), and his chronic debilitation, his chances of
   recovery and getting home and back to his previous quality of life are
   at best poor.  Given this situation the family has elected to not
   reintubate if we extubate him.  If he fails, they will make him CMO and
   not choose further aggressive care.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2115-3-29**] 18:05 ------

2115-03-30 07:49:00 Physician Resident Progress Note
Chief Complaint:
   35 yo man who has been in hospital some time, with cerebral palsy, non
   verbal.  admitted [**Doctor Last Name **] [**Month (only) **] with acute abdomen, peritonitis, chronic
   pancreatitits.  found to have SMV thrombus, anticoagulated, then
   developed retoperitoneal hemorrhage.  Was on floor readmitted with
   progressive hypoxemia, intubated.  Had CT with ? of liver abscess.
   CTA with LLL and RLL PNA and atelectasis, and effusions.
   24 Hour Events:
   - continues w/ temp to 100.6 O/N with slightly elevated WBC this AM
   sent blood/urine cx, beta glucan, aspergillus, consider d/c picc
   - lasix 40 and 20IV boluses to net negative 700cc
   - Tolerating pressure support trial well; PEEP at 5 with PSV 10
   - ET tube advanced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-29**] 10:41 AM
   Cefipime - [**2115-3-29**] 10:00 PM
   Vancomycin - [**2115-3-30**] 02:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-29**] 10:30 AM
   Pantoprazole (Protonix) - [**2115-3-29**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-30**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 117 (114 - 125) bpm
   BP: 91/66(77) {84/63(73) - 104/76(87)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,966 mL
                                                                    608 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    331 mL
   IVF:
                                                                    665 mL
                                                                    278 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    460 mL
   Urine:
                                                                  2,075 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                    148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 309 (309 - 381) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 125
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 9.3 L/min
   Physical Examination
   Labs / Radiology
   189 K/uL
   9.9 g/dL
   139 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   30.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
   WBC
   6.5
   10.7
   8.7
   Hct
   28.1
   30.4
   30.2
   Plt
   171
   216
   189
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   29
   27
   25
   27
   Glucose
   153
   136
   118
   116
   85
   139
   Other labs: PT / PTT / INR:15.7/27.6/1.4
   Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Lactate: 1.8
   UA: mod LE, pos nitr, few bact, 298 WBC
   Assessment and Plan
35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course,
   now with new fever, tachypnea, and hypoxia.
   .
   # Respiratory failure:   Patient transferred to MICU with tachypnea and
   hypoxia on [**2115-3-23**] and intubated on [**2115-3-24**].  Given his new fever,
   respiratory deterioration, and imaging findings consistent with
   multilobar pneumonia he was started on vancomycin, cefepime and flagyl
   (concern for aspiration given recently started tube feeds).  Sputum
   growing MRSA.  Pleural effusions also noted on imaging, likely due to
   fluid resuscitation for hypotension in the setting of albumin of 2.3,
   so over the past 24 hours have been diuresing with lasix boluses.  PE
   considered but CTA negative.
   - continue antibiotic coverage for HAP/aspiration PNA with vanc,
   cefepime, metronidazole x total 8 days (Day 1 = [**3-23**])
   - continue with daily RSBI and SBT as tolerated, attempt to wean to
   PSV; reduced PEEP from 8 to 5 this morning without problems
   - likely extubation tomorrow with optimization today
   - ABG later today
   - gentle diuresis with IV lasix boluses to goal net negative 1000cc
   - [**Hospital1 **] electrolytes with repletion while on Lasix
   - f/u blood cultures
   .
   # Fever/sepsis: Pt febrile with tachycardia and tachypnea; meets
   definition of sepsis with most likely source being pulmonary (MRSA).
   With ascites, SBP is also possible although he is now s/p 3 taps which
   have not been c/w SBP. Urinalysis and culture from [**3-23**] with staph spp
   but repeat appears clean with NGTD.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] with no obvious
   nuchal rigidity although exam limited by pt cooperation.  Again, PE
   could cause similar sx of fever and respiratory distress but none seen
   on CTA. Continues febrile daily. No further episodes of AMS. CT read as
   possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Continues to have
   fever to 101 on [**2-24**] overnight but normal white count, lactate normal.
   - Broad abx as above with good gram positive, gram neg, and anaerobic
   coverage. Consider adding additional coverage for double gram negative
   coverage if WBC does not continue trending down.
   - f/u beta glucan, aspergillus galactomannan
   - consider D/C picc line
   - Goal CVP 8-12 but no measurements available currently
 will bolus
   for tachycardia, UOP < 30cc/h, goal MAP >60, CvO2 >70
   - Pressors for MAP > 55-60, off vasopressors
   - Monitor mental status
   - Consider paracentesis if continues febrile and no other source (would
   likely need to be done by IR)
   - change foley today, follow up on culture data
   .
   #Hypotension. Off Vasopressors. [**Month/Year (2) **] pressures run low and
   currently sedated which may contribute. MAP goal > 60. No further
   episodes of AMS since starting pressors on [**3-25**].
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at [**Month/Year (2) 4578**] and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Abx as above
   - Fluid boluses prn, though patient with [**Month/Year (2) 4578**] heart rate 110s;
   appears hypervolemic
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - continue pantoprazole 40mg IV bid
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin
   - drug levels stable as of [**3-27**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at [**Date Range 4578**].
   .
   FEN: NG tube likely in duodenum, bolus IVF prn, TPN; continue tube
   feeds today
   PROPHYLAXIS: pneumoboots, IV PPI
   ACCESS: PICC, PIV, D/C A-line in right brachial artery
   CODE: Do not resuscitate. Ok to intubate or use pressors. No CPR or
   defibrillation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-03-30 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Completed 2 hr SBT sucessfully on 8/0 this AM
   24 Hour Events:
   RSBI 93 this AM.
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2115-3-30**] 02:00 AM
   Cefipime - [**2115-3-30**] 10:00 AM
   Metronidazole - [**2115-3-30**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-30**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: mechanical ventilation
   Flowsheet Data as of  [**2115-3-30**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.1
C (98.8
   HR: 114 (114 - 125) bpm
   BP: 84/61(71) {83/60(70) - 104/75(87)} mmHg
   RR: 20 (19 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,966 mL
                                                                  1,112 mL
   PO:
             TF:
                                                                  1,201 mL
                                                                    552 mL
   IVF:
                                                                    665 mL
                                                                    520 mL
   Blood products:
   Total out:
                                                                  2,675 mL
                                                                    580 mL
   Urine:
                                                                  2,075 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -709 mL
                                                                    532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 224 (224 - 381) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 93
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///24/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, more awake today
   Labs / Radiology
   9.9 g/dL
   189 K/uL
   139 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   27 mg/dL
   105 mEq/L
   138 mEq/L
   30.2 %
   8.7 K/uL
        [image002.jpg]
                             [**2115-3-27**]  01:56 PM
                             [**2115-3-28**]  02:25 AM
                             [**2115-3-28**]  02:42 AM
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
   WBC
   6.5
   10.7
   8.7
   Hct
   28.1
   30.4
   30.2
   Plt
   171
   216
   189
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   29
   27
   25
   27
   Glucose
   153
   136
   118
   116
   85
   139
   Other labs: PT / PTT / INR:15.7/27.6/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.8 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   35 yo man with cerebral palsy with recurrent respiratory failure due to
   pneumonia and volume overload
   Respiratory Failure: RSBI good and passed SBT this AM.  Cont
   vanc/cefepime Flagyl - tomorrow is last day.  His CXR has not
   improved.  Given that we will not plan to reintubate, we will plan to
   diurese aggressively today (goal 1L neg given his size) and aim for
   extubation tomorrow.
   Fevers: Cont abx - repeat CXRs of of PICC
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-3-30**] 06:25 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2115-03-31 06:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -goal at least 1 liter negative today.  Received multiple doses of
   lasix with moderate diuresis.
   -patient is not to be reintubated after extubation.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-30**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Unchanged.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   No Changes
   Flowsheet Data as of  [**2115-3-31**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (98.9
   HR: 112 (105 - 129) bpm
   BP: 80/61(69) {77/59(67) - 102/73(86)} mmHg
   RR: 24 (17 - 28) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,429 mL
                                                                    462 mL
   PO:
             TF:
                                                                  1,199 mL
                                                                    301 mL
   IVF:
                                                                  1,010 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    385 mL
   Urine:
                                                                  3,320 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 303 (224 - 375) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: 7.44/43/106/26/4
   Ve: 7.4 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice
   HEENT: Sclera anicteric, eyes sunken, MMM, audible secretions
   Neck: Supple
   Lungs: Intubated, coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: foley catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   142 K/uL
   9.5 g/dL
   145 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   24 mg/dL
   102 mEq/L
   136 mEq/L
   28.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2115-3-28**]  07:36 AM
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
   WBC
   10.7
   8.7
   7.1
   Hct
   30.4
   30.2
   28.5
   Plt
   [**Telephone/Fax (3) 11984**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   27
   25
   27
   30
   Glucose
   118
   116
   85
   139
   150
   145
   Other labs: PT / PTT / INR:15.9/27.4/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course,
   now with new fever, tachypnea, and hypoxia.
   .
   # Respiratory failure:   Patient transferred to MICU with tachypnea and
   hypoxia on [**2115-3-23**] and intubated on [**2115-3-24**].  Given his new fever,
   respiratory deterioration, and imaging findings consistent with
   multilobar pneumonia he was started on vancomycin, cefepime and flagyl
   (concern for aspiration given recently started tube feeds).  Sputum
   growing MRSA.  Pleural effusions also noted on imaging, likely due to
   fluid resuscitation for hypotension in the setting of albumin of 2.3,
   so over the past 24 hours have been diuresing with lasix boluses.  PE
   considered but CTA negative.
   - discontinue antibiotic coverage for HAP/aspiration PNA with vanc,
   cefepime, metronidazole as patient has completed total 8 days (Day 1 =
   [**3-23**])
   - continue with daily RSBI and SBT as tolerated, likely will extubate
   today
   - follow ABGs
   - optimize for extubation
   - [**Hospital1 **] electrolytes with repletion while on Lasix
   - f/u blood cultures
   .
   # Fever/sepsis: Pt febrile with tachycardia and tachypnea; meets
   definition of sepsis with most likely source being pulmonary (MRSA).
   With ascites, SBP is also possible although he is now s/p 3 taps which
   have not been c/w SBP. Urinalysis and culture from [**3-23**] with staph spp
   but repeat appears clean with NGTD.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] with no obvious
   nuchal rigidity although exam limited by pt cooperation.  Again, PE
   could cause similar sx of fever and respiratory distress but none seen
   on CTA. Continues febrile daily. No further episodes of AMS. CT read as
   possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Continues to have
   fever to 101 on [**2-24**] overnight but normal white count, lactate normal.
   - Broad abx as above with good gram positive, gram neg, and anaerobic
   coverage. Consider adding additional coverage for double gram negative
   coverage if WBC does not continue trending down.
   - Goal CVP 8-12 but no measurements available currently
 will bolus
   for tachycardia, UOP < 30cc/h, goal MAP >60, CvO2 >70
   - Pressors for MAP > 55-60, off vasopressors
   - Monitor mental status
   - Consider paracentesis if continues febrile and no other source (would
   likely need to be done by IR)
   .
   #Hypotension. MAP goal > 60. No further episodes of AMS since starting
   pressors on [**3-25**]. Not on vasopressors.
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at [**Month/Year (2) 4578**] and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Abx as above
   - Fluid boluses prn, though patient with [**Month/Year (2) 4578**] heart rate 110s;
   appears hypervolemic
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - continue pantoprazole 40mg IV bid
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin
   - drug levels stable as of [**3-31**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at [**Date Range 4578**].
   .
   FEN: NG tube likely in duodenum, bolus IVF prn, TPN; continue tube
   feeds today
   PROPHYLAXIS: pneumoboots, IV PPI
   ACCESS: PICC, PIV, D/C A-line in right brachial artery
   CODE: Do not resuscitate/Do not re-intubate. No CPR or defibrillation
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-3-30**] 06:25 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-03-31 09:19:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   1.1L negative
   24 Hour Events:
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-3-31**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Respiratory: mechanical ventilation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2115-3-31**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.5
C (99.5
   HR: 120 (105 - 129) bpm
   BP: 94/75(72) {78/44(59) - 151/95(114)} mmHg
   RR: 27 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,429 mL
                                                                    562 mL
   PO:
             TF:
                                                                  1,199 mL
                                                                    321 mL
   IVF:
                                                                  1,010 mL
                                                                    101 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    495 mL
   Urine:
                                                                  3,320 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,151 mL
                                                                     67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 369 (224 - 375) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 109
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.49/36/89.[**Numeric Identifier 433**]/26/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   142 K/uL
   145 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   24 mg/dL
   102 mEq/L
   136 mEq/L
   28.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2115-3-28**]  09:06 AM
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
   WBC
   10.7
   8.7
   7.1
   Hct
   30.4
   30.2
   28.5
   Plt
   [**Telephone/Fax (3) 11984**]
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   TCO2
   25
   27
   30
   28
   Glucose
   118
   116
   85
   139
   150
   145
   Other labs: PT / PTT / INR:15.9/27.4/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: improved but not resolved bilateral infiltrates
   Assessment and Plan
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   35 yo man with cerebral palsy with recurrent respiratory failure due to
   pneumonia and volume overload
   Respiratory Failure: Doing well this AM on SBT, able to be negative
   overnight.  Will aim to extubate this AM.
   Fevers: Still with some low grade fevers.  Abx xourse completed today.
   Remainder of issue per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2115-04-01 07:58:00 Physician Resident Progress Note
Chief Complaint: - Extubated in AM with plan to NOT reintubate
   - Had some coughing and desat to upper 80s post-extubation, as well as
   fever; recultured and gave dose of 40 mg IV lasix, which seemed to help
   - TF held given risk of aspiration
   - Hypotensive to SBPs in 70s in PM after diuresing ~800 cc to Lasix; no
   intervention and BPs improved to 90s.
   - Overnight while sleeping MAP dropped to 55 and SBP to < 70, so got
   250 cc bolus
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-3-31**] 09:15 AM
 BLOOD CULTURED - At [**2115-3-31**] 01:50 PM
 URINE CULTURE - At [**2115-3-31**] 01:50 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-31**] 01:50 PM
   Pantoprazole (Protonix) - [**2115-3-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-1**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.2
C (97.1
   HR: 107 (100 - 130) bpm
   BP: 91/70(79) {72/52(60) - 95/77(84)} mmHg
   RR: 21 (16 - 41) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    721 mL
                                                                    746 mL
   PO:
             TF:
                                                                    321 mL
                                                                    297 mL
   IVF:
                                                                    260 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    200 mL
   Urine:
                                                                  1,780 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,059 mL
                                                                    547 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 8 cmH2O
   RR (Spontaneous): 27
   PEEP: 0 cmH2O
   FiO2: 50%
   SpO2: 94%
   ABG: 7.49/36/89.[**Numeric Identifier 433**]/29/4
   Ve: 9.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice; grunting
   this morning and appears uncomfortable
   HEENT: Sclera anicteric, eyes sunken, MMM, audible secretions
   Neck: Supple
   Lungs: Intubated, coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: foley catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   148 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   27.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2115-3-28**]  02:18 PM
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
   WBC
   10.7
   8.7
   7.1
   7.3
   Hct
   30.4
   30.2
   28.5
   27.9
   Plt
   [**Telephone/Fax (3) 11992**]37
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   27
   30
   28
   Glucose
   118
   116
   85
   139
   150
   145
   148
   Other labs: PT / PTT / INR:16.6/26.3/1.5, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course,
   now with new fever, tachypnea, and hypoxia.
   .
   # Respiratory failure:   Patient transferred to MICU with tachypnea and
   hypoxia on [**2115-3-23**] and intubated on [**2115-3-24**].  Given his new fever,
   respiratory deterioration, and imaging findings consistent with
   multilobar pneumonia he was started on vancomycin, cefepime and flagyl
   (concern for aspiration given recently started tube feeds).  Sputum
   growing MRSA.  Pleural effusions also noted on imaging, likely due to
   fluid resuscitation for hypotension in the setting of albumin of 2.3,
   so over the past 24 hours have been diuresing with lasix boluses.  PE
   considered but CTA negative.   Few apneic episodes two nights ago may
   be secondary to aggressive diuresis.  Extubated on [**2115-3-30**].  The
   current respiratory distress is likely due to mucous plugging,
   secretions with rhonchorous breath sounds on exam. Pulmonary edema may
   also be contributing.
   - Completed 8-day course of vanc, cefepime, metronidazole
   - suction and light chest PT
   - consider gentle diuresis although difficult given low BP
   - follow ABGs
   - f/u blood cultures
   - morphine for grunting/resp distress x 1 to see if helpful
   - will discuss non-invasive pressure ventilation if necessary with
   family
   .
   # Fever/sepsis: Pt febrile with tachycardia and tachypnea; meets
   definition of sepsis with most likely source being pulmonary (MRSA).
   With ascites, SBP is also possible although he is now s/p 3 taps which
   have not been c/w SBP. Urinalysis and culture from [**3-23**] with staph spp
   but repeat appears clean with NGTD.  MS [**First Name (Titles) **] [**Last Name (Titles) 4578**] with no obvious
   nuchal rigidity although exam limited by pt cooperation.  Again, PE
   could cause similar sx of fever and respiratory distress but none seen
   on CTA. Continues febrile daily. No further episodes of AMS. CT read as
   possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Continues to have
   fever to 101 on [**2-24**] overnight but normal white count, lactate normal.
   - Off Abx as above.
   - Goal CVP 8-12 but no measurements available currently
 will bolus
   for tachycardia, UOP < 30cc/h, goal MAP >60, CvO2 >70
   - Pressors for MAP > 55-60, off vasopressors
   - Monitor mental status
   - Consider paracentesis if continues febrile and no other source (would
   likely need to be done by IR)
   .
   #Hypotension. MAP goal > 60. No further episodes of AMS since starting
   pressors on [**3-25**]. Not on vasopressors.
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at [**Month/Year (2) 4578**] and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Abx as above
   - Fluid boluses prn, though patient with [**Month/Year (2) 4578**] heart rate 110s;
   appears hypervolemic
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - continue pantoprazole 40mg IV bid
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin
   - drug levels stable as of [**3-31**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at [**Date Range 4578**].
   .
   FEN: NG tube likely in duodenum, bolus IVF prn, TPN; continue tube
   feeds today
   PROPHYLAXIS: pneumoboots, IV PPI
   ACCESS: PICC, PIV, D/C A-line in right brachial artery
   CODE: Do not resuscitate/Do not re-intubate. No CPR or defibrillation.
   Will clarify role for BIPAP/CPAP.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-1**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-04-01 09:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated yesterday
   Diuresed further due to ongoing hypoxemia with improvement --> 250cc
   bolus given back overnight due to MAPs in the 50s.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2115-3-31**] 09:15 AM
 BLOOD CULTURED - At [**2115-3-31**] 01:50 PM
 URINE CULTURE - At [**2115-3-31**] 01:50 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-3-31**] 01:50 PM
   Pantoprazole (Protonix) - [**2115-3-31**] 08:00 PM
   Morphine Sulfate - [**2115-4-1**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Tachycardia
   Respiratory: Tachypnea
   Pain: [**12-15**] Minimal
   Flowsheet Data as of  [**2115-4-1**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.6
C (99.6
   HR: 132 (100 - 134) bpm
   BP: 115/83(97) {72/52(60) - 115/83(97)} mmHg
   RR: 45 (16 - 45) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    721 mL
                                                                    861 mL
   PO:
             TF:
                                                                    321 mL
                                                                    383 mL
   IVF:
                                                                    260 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,780 mL
                                                                    280 mL
   Urine:
                                                                  1,780 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,059 mL
                                                                    581 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.42/42/72/29/2
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Moderate resp distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: loud throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   137 K/uL
   148 mg/dL
   0.6 mg/dL
   29 mEq/L
   3.2 mEq/L
   20 mg/dL
   103 mEq/L
   138 mEq/L
   27.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2115-3-28**]  02:33 PM
                             [**2115-3-29**]  05:01 AM
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
   WBC
   10.7
   8.7
   7.1
   7.3
   Hct
   30.4
   30.2
   28.5
   27.9
   Plt
   [**Telephone/Fax (3) 11992**]37
   Cr
   0.7
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   27
   30
   28
   28
   Glucose
   116
   85
   139
   150
   145
   148
   Other labs: PT / PTT / INR:16.6/26.3/1.5, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:17/19, Alk Phos / T Bili:106/0.6, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.4 g/dL, LDH:383 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   35 yo man with cerebral palsy with recurrent respiratory failure due to
   pneumonia and volume overload
   Respiratory Failure: Extubated but still requiring a large amount of
   oxygen and using accessory muscles to breath.  Will hold off on further
   diuresis for the moment given worry about concreting secretions.
   Gentle chest PT.
   Fevers: Low grade fevers.  Has completed abx course.
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-1**] 02:00 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 31 minutes
   Patient is critically ill

2115-04-02 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Blood CX ([**3-31**]) growing yeast
   - Urine CX ([**3-29**]) growing >100K yeast
   - IV team evaluated
 no peripheral access, needs central line
   -
   Received pt on 5 LNC, 40% face tent.  Lungs clear diminished at bases.
   Strong productive cough for thick white secretions.  Sats 87-88% at
   beginning of shift.  RR consistently mid 40
   40 mg IV lasix given, 2 mg morphine given.  FiO2 increased to 100%
   500 cc response to lasix but remains + for day.  02 weaned to 70% AM
   ABG 7.44/43/128  RR continues to be elevated to mid 30
   Gentle CPT as tolerated.  Wean O2, gentle diuresis.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Fluconazole - [**2115-4-2**] 01:56 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-4-1**] 08:46 PM
   Furosemide (Lasix) - [**2115-4-1**] 11:08 PM
   Morphine Sulfate - [**2115-4-2**] 12:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-2**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.7
C (99.8
   HR: 116 (112 - 134) bpm
   BP: 83/63(72) {76/53(62) - 115/83(97)} mmHg
   RR: 39 (24 - 47) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,616 mL
                                                                    548 mL
   PO:
             TF:
                                                                  1,896 mL
                                                                    332 mL
   IVF:
                                                                    600 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    740 mL
   Urine:
                                                                    930 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: Face tent 15L 70% FiO2
   SpO2: 97%
   ABG: 7.44/43/128/25/5
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice; grunting
   this morning and appears uncomfortable
   HEENT: Sclera anicteric, eyes sunken, MMM, audible secretions
   Neck: Supple
   Lungs: Intubated, coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: foley catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   137 K/uL
   9.1 g/dL
   105 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.8 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   27.9 %
   7.3 K/uL
        [image002.jpg]
                             [**2115-3-29**]  02:23 PM
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:29 AM
   WBC
   8.7
   7.1
   7.3
   Hct
   30.2
   28.5
   27.9
   Plt
   189
   142
   137
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   TCO2
   30
   28
   28
   30
   Glucose
   85
   139
   150
   145
   148
   105
   NO labs this AM
   - Blood CX ([**3-31**]) growing yeast
   - Urine CX ([**3-29**]) growing >100K yeast, [**3-31**] growing ~9000 yeast
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course
   now with fever, hypoxemia, blood culture growing yeast.
   .
   # Hypoxemia:   Patient transferred to MICU with tachypnea and hypoxia
   on [**2115-3-23**] and intubated on [**2115-3-24**].  Imaging findings consistent with
   multilobar pneumonia with sputum growing MRSA, complted 8 day course of
   vanc, cefepime, and flagyl on [**2115-3-31**]. Pleural effusions also noted on
   imaging, likely due to fluid resuscitation for hypotension in the
   setting of albumin of 2.3, so have been diuresing with lasix boluses.
   Extubated on [**2115-3-30**].  The current respiratory distress is likely due
   to mucous plugging, secretions with rhonchorous breath sounds on exam.
   Pulmonary edema may also be contributing.
   - suction and light chest PT
   - continue gentle diuresis with lasix 40mg IV boluses to goal -500cc
   - change pantoprazole from IV to PO to limit amount of IVF
   - follow ABGs
   - f/u blood cultures
   - morphine for grunting/resp distress x 1 to see if helpful
   - will discuss non-invasive pressure ventilation if necessary with
   family
   .
   # Yeast bacteremia:  Patient continues to have fevers, now with
   positive urine and blood cultures growing yeast.  Possible urogenital
   source with hematogenous spread.  Heart rate and blood pressure
   currently at baseline.  Normal WBC count, lactate.
   - daily blood cultures
   - TTE
   - pull picc line and arterial line pending obtainment of new central
   access
   - d/c fluconazone for micafungin pending speciation
   - foley catheter changed overnight
 may be able to transition to
   condom catheter
   - ophthalmologic evaluation
   - check LFT, EKG
   - f/u aspergillus, beta glucan
   .
   #Fevers:  Patient daily low grade febrile episodes despite broad
   spectrum antibiotics.  Completed treatment for pulmonary infection with
   8 day course of vancomycin, cefepime, flagyl.  SBP possible but 3 taps
   have not been c/w SBP.  PE considered but no evidence on CTA.  CT read
   as possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Overnight
   positive urine and blood culture growing yeast.
   - treatment for yeast bloodstream infection as above
   -
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at baseline and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Antimicrobial agents as above
   .
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - change pantoprazole to PO
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   .
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin, but transition to PO route
   - drug levels stable as of [**3-31**], continue to monitor
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at baseline.
   - speech and swallow evaluation
   .
   FEN: continue tube feeds today
   PROPHYLAXIS: pneumoboots, PO PPI
   ACCESS: PICC, A-line in right brachial artery
   CODE: Do not resuscitate/Do not re-intubate. No CPR or defibrillation.
   Will clarify role for BIPAP/CPAP.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-1**] 10:05 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-04-02 10:16:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man with cerebral palsy, recurrent aspiration, prolonged
   aspiration.   Blood cx from [**3-31**] with yeast.
   Has contiued thick secretions and significant oxygen requirement.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2115-3-30**] 06:00 PM
   Vancomycin - [**2115-3-30**] 08:00 PM
   Cefipime - [**2115-3-30**] 10:00 PM
   Fluconazole - [**2115-4-2**] 01:56 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2115-4-2**] 12:24 AM
   Pantoprazole (Protonix) - [**2115-4-2**] 08:20 AM
   Furosemide (Lasix) - [**2115-4-2**] 08:20 AM
   Other medications:
   SSI
   miconazole
   phosphenytoin
   lidocaine
   patch
   FeSO4
   pancrealipase
   protonix
   fluconazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-2**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.9
C (100.3
   HR: 111 (111 - 130) bpm
   BP: 87/64(75) {76/53(62) - 100/72(84)} mmHg
   RR: 30 (24 - 47) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,616 mL
                                                                    810 mL
   PO:
             TF:
                                                                  1,896 mL
                                                                    500 mL
   IVF:
                                                                    600 mL
                                                                    310 mL
   Blood products:
   Total out:
                                                                    930 mL
                                                                    880 mL
   Urine:
                                                                    930 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,686 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 98%
   ABG: 7.44/43/128/28/5
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   147 K/uL
   159 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.9 mEq/L
   28 mg/dL
   107 mEq/L
   143 mEq/L
   26.5 %
   8.1 K/uL
        [image002.jpg]
                             [**2115-3-30**]  03:50 AM
                             [**2115-3-30**]  04:15 PM
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:23 AM
                             [**2115-4-2**]  06:29 AM
   WBC
   8.7
   7.1
   7.3
   8.1
   Hct
   30.2
   28.5
   27.9
   26.5
   Plt
   189
   142
   137
   147
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.5
   TCO2
   30
   28
   28
   30
   Glucose
   139
   150
   145
   148
   105
   159
   Other labs: PT / PTT / INR:15.7/24.4/1.4, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:[**10-2**], Alk Phos / T Bili:150/0.3, Amylase
   / Lipase:/11, Differential-Neuts:86.5 %, Lymph:6.6 %, Mono:5.9 %,
   Eos:0.9 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:314 IU/L,
   Ca++:7.3 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Respiratory distress/hypoxemia:  still with evidence of pumonary edema
   and poor secretion clearance.
      - Continue pulmonary toilette and diuresis
   Yeast bacteremia from PIC line:  Will need lines removed.  On
   micafungin.  Will attempt to place peripheral IV through U/S.
   seizure disorder:  make meds PO.
   Can get S+S eval.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-1**] 10:05 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2115-3-23**] 11:14 AM
   Arterial Line - [**2115-3-24**] 11:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2115-04-03 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-4-2**] 12:25 PM
 PARACENTESIS - At [**2115-4-2**] 04:00 PM
 TRANSTHORACIC ECHO - At [**2115-4-2**] 04:51 PM
 PICC LINE - STOP [**2115-4-2**] 08:30 PM
   dual lumen
   - ID consult: Change fluconazole to micafungin.
   - Ophthalmology consult: difficult exam, no apparent chororetinal
   lesions. Corneal Scarring. Recommend repeat dilated fundoscopic exam if
   patient having ANY procedure requiring general anesthesia. Otherwise,
   repeat DFE in 2 weeks. Recommend lacrilub drops.
   - diagnostic paracentesis [**4-2**]: sanguinous fluid aspirated, albumin
   1.1, protein 2.3, glucose 121, LDH 160, WBC 300, RBC [**Numeric Identifier 8941**], diff
   PENDING
   - right EJ peripheral line placed
   - 40 Lasix in AM and in PM; still positive
   - video swallow study [**4-3**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2115-4-2**] 01:56 AM
   Micafungin - [**2115-4-2**] 06:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2115-4-2**] 08:20 AM
   Furosemide (Lasix) - [**2115-4-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-3**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 116 (101 - 118) bpm
   BP: 101/66(73) {81/45(39) - 101/71(79)} mmHg
   RR: 30 (23 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,976 mL
                                                                    443 mL
   PO:
                                                                    200 mL
             TF:
                                                                  1,206 mL
                                                                    369 mL
   IVF:
                                                                    451 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    160 mL
   Urine:
                                                                  1,700 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                    284 mL
   Respiratory support
   SpO2: 100%
   Physical Examination
   Labs / Radiology
   146 K/uL
   8.9 g/dL
   145 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.5 mEq/L
   28 mg/dL
   107 mEq/L
   145 mEq/L
   26.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:23 AM
                             [**2115-4-2**]  06:29 AM
                             [**2115-4-2**]  05:37 PM
                             [**2115-4-3**]  06:16 AM
   WBC
   7.1
   7.3
   8.1
   6.7
   Hct
   28.5
   27.9
   26.5
   26.6
   Plt
   142
   137
   147
   146
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   TCO2
   30
   28
   28
   30
   Glucose
   145
   148
   105
   159
   145
   Other labs: PT / PTT / INR:14.1/25.1/1.2,
   Peritoneal fluid: 300WBC, 19 PMN, 41L, 40mono, 89000RBC
   Micro:
   - catheter tip: pending
   -yeast urine/blood cx speciation: pending
   TTE:
   IMPRESSION: Moderately thickened and deformed aortic valve leaflets
   with moderate to severe stenosis. At least moderate mitral
   regurgitation. Small echodensity in the left atrium adjacent to the
   anterior leaflet of the mitral valve (clip [**Clip Number (Radiology) **]) which appears consistent
   with artifact from mitral annular and valvular calcification; however,
   a small vegetation cannot be excluded. Mild global biventricular
   hypokinesis.
   If clinically suggested, the absence of a vegetation by 2D
   echocardiography does not exclude endocarditis.
   Compared with the prior study (images reviewed) of [**2115-3-25**], the
   findings are similar.
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course
   now with fever, hypoxemia, blood culture growing yeast.
   .
   # Hypoxemia:   Patient transferred to MICU with tachypnea and hypoxia
   on [**2115-3-23**] and intubated on [**2115-3-24**].  Imaging findings consistent with
   multilobar pneumonia with sputum growing MRSA, complted 8 day course of
   vanc, cefepime, and flagyl on [**2115-3-31**]. Pleural effusions also noted on
   imaging, likely due to fluid resuscitation for hypotension in the
   setting of albumin of 2.3, so have been diuresing with lasix boluses.
   Extubated on [**2115-3-30**].  The current respiratory distress is likely due
   to mucous plugging, secretions with rhonchorous breath sounds on exam.
   Pulmonary edema may also be contributing.
   - suction and light chest PT
   - continue gentle diuresis with lasix 40mg IV boluses to go even to
   -500cc negative
   - follow ABGs
   - morphine for grunting/resp distress x 1 to see if helpful
   - will discuss non-invasive pressure ventilation if necessary with
   family
   .
   # Yeast bacteremia:  Patient continues to have fevers, now with
   positive urine and blood cultures growing yeast.  Possible urogenital
   source with hematogenous spread.  Heart rate and blood pressure
   currently at baseline.  Normal WBC count, lactate.
   - follow fever curve
   - daily blood cultures
   - follow speciation and sensitivity
   - continue micafungin IV
   - f/u ID recs
   - follow LFT, EKG
   - f/u PICC tip culture
   - f/u aspergillus, beta glucan
   .
   #Fevers:  Patient daily low grade febrile episodes despite broad
   spectrum antibiotics.  Completed treatment for pulmonary infection with
   8 day course of vancomycin, cefepime, flagyl.  SBP possible but 3 taps
   have not been c/w SBP.  PE considered but no evidence on CTA.  CT read
   as possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Overnight
   positive urine and blood culture growing yeast.
   - treatment for yeast bloodstream infection as above
   -
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at baseline and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Antimicrobial agents as above
   .
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct
   - Guaiac stools
   - Active T&S
   - change pantoprazole to PO
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   .
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin, but transition to PO route
   - check drug levels
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at baseline.
   - speech and swallow evaluation
   .
   FEN: continue tube feeds today
   PROPHYLAXIS: pneumoboots, PO PPI
   ACCESS: PICC, A-line in right brachial artery
   CODE: Do not resuscitate/Do not re-intubate. No CPR or defibrillation.
   Will clarify role for BIPAP/CPAP.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-2**] 09:49 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-2**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-04-03 11:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man with cerebral palsy, respiratory failure, aspiration PNA.
   Had PIC line removed yesterday.  EJ placed.
   24 Hour Events:
 ARTERIAL LINE - STOP [**2115-4-2**] 12:25 PM
 PARACENTESIS - At [**2115-4-2**] 04:00 PM
 TRANSTHORACIC ECHO - At [**2115-4-2**] 04:51 PM
 PICC LINE - STOP [**2115-4-2**] 08:30 PM
   dual lumen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2115-4-2**] 01:56 AM
   Micafungin - [**2115-4-2**] 06:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2115-4-3**] 06:00 AM
   Other medications:
   SSI
   lidocaine patch
   FeSO4
   pancrease
   phenobarb
   prevacid
   dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-3**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 117 (99 - 118) bpm
   BP: 91/61(67) {84/45(56) - 101/70(87)} mmHg
   RR: 25 (21 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,976 mL
                                                                    681 mL
   PO:
                                                                    200 mL
             TF:
                                                                  1,206 mL
                                                                    568 mL
   IVF:
                                                                    451 mL
                                                                    114 mL
   Blood products:
   Total out:
                                                                  1,700 mL
                                                                    920 mL
   Urine:
                                                                  1,700 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    276 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: diminished at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.9 g/dL
   146 K/uL
   65 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   27 mg/dL
   106 mEq/L
   143 mEq/L
   26.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2115-3-31**]  02:46 AM
                             [**2115-3-31**]  03:02 AM
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:23 AM
                             [**2115-4-2**]  06:29 AM
                             [**2115-4-2**]  05:37 PM
                             [**2115-4-3**]  06:16 AM
   WBC
   7.1
   7.3
   8.1
   6.7
   Hct
   28.5
   27.9
   26.5
   26.6
   Plt
   142
   137
   147
   146
   Cr
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TCO2
   30
   28
   28
   30
   Glucose
   145
   148
   105
   159
   145
   65
   Other labs: PT / PTT / INR:14.1/25.1/1.2, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:13/27, Alk Phos / T Bili:156/0.2, Amylase
   / Lipase:/11, Differential-Neuts:84.2 %, Lymph:10.2 %, Mono:4.1 %,
   Eos:1.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:314 IU/L,
   Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: peritoneal fluid: 300 WBC, 19% neutraphils
   Microbiology: cath tip cx: pending
   Assessment and Plan
   Acute on chronic systolic hear failure with valvular disease:  continue
   diuresis for pulmonary edema.
   fungemia:  follow-up cx have been negative.  continue micafungin.
   follow up on PIC tip culture.
   Fever curve:  slighly improved.  Paracentesis with no evidence of SBP.
   To get S+S study today.
   seizure disorder: on phenobarb and dilantin
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-3**] 09:48 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-2**] 07:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2115-04-04 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - ID: Cont micafungin. Favor TTE.
   - Bcx: presumptive C. albicans
   - Lasix 40 in AM -> -80cc. Lasix 40 in PM -> -900. Net negative 500 for
   day.
   - Very limited swallowing study but no aspiration; cleared for nectar
   thick liquids, pureed solids; needs 1:1 observation (mother may need to
   feed). OK to try crushed meds, but may not take reliably
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2115-4-2**] 01:56 AM
   Micafungin - [**2115-4-2**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-4**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.4
C (99.4
   HR: 109 (99 - 128) bpm
   BP: 91/56(65) {85/11(35) - 101/70(87)} mmHg
   RR: 29 (18 - 36) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,440 mL
                                                                    577 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    389 mL
   IVF:
                                                                    240 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    160 mL
   Urine:
                                                                  1,960 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   Gen: Thin, opening eyes but no clear orientation to voice; appears
   comfortable
   HEENT: Sclera anicteric, eyes sunken, MM dry
   Neck: Supple
   Lungs: coarse BS bilaterally with diffuse ronchi
   CV: S1, S2 regular rhythm, increased rate, II/VI systolic ejection
   murmur at base
   Abdomen: Soft, BS+, distended, no facial grimacing to palpation
   GU: condom catheter in place
   Ext: Warm, cachectic, BLE contractures, + DP pulses
   Labs / Radiology
   149 K/uL
   9.3 g/dL
   157 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   27.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:23 AM
                             [**2115-4-2**]  06:29 AM
                             [**2115-4-2**]  05:37 PM
                             [**2115-4-3**]  06:16 AM
                             [**2115-4-3**]  03:52 PM
                             [**2115-4-4**]  05:10 AM
   WBC
   7.3
   8.1
   6.7
   7.0
   Hct
   27.9
   26.5
   26.6
   27.7
   Plt
   137
   147
   146
   149
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   28
   28
   30
   Glucose
   148
   105
   159
   145
   65
   123
   157
   Other labs: PT / PTT / INR:15.0/24.2/1.3, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:18/32, Alk Phos / T Bili:178/0.3, Amylase
   / Lipase:/11, Differential-Neuts:86.9 %, Lymph:8.0 %, Mono:3.6 %,
   Eos:1.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:314 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Aspergillus, beta-glucan - pending
   ESR 55
   CRP 140
   Phenobarb 17.9, Phenytoin 11.5
   [**4-4**] blood cx pending
   [**4-2**] cath tip cx pending
   [**4-2**] blood cx pending (includes fungal)
   [**4-2**] ascites fluid cx
 pending
   [**4-2**] urine cx - ngtd
   [**3-31**] blood cx
 [**Female First Name (un) 444**]
   [**3-31**] urine cx - yeast
   [**4-3**] CXR - In comparison with the study of [**4-2**], the left subclavian
   catheter has been removed. There are continued low lung volumes with
   evidence of  severe pulmonary edema. Poor definition of the
   hemidiaphragms could reflect pleural effusion and atelectasis at the
   bases.
   [**4-4**] CXR
 pending
   [**4-3**] video swallow
 pending
   Assessment and Plan
   35 yo M with PMH of CP, seizure disorder, GIB, pancreatic cyst s/p
   drainage in [**2113**], admitted with abdominal pain with complicated course
   now with fever, hypoxemia, blood culture growing yeast.
   .
   # Hypoxemia:   Patient transferred to MICU with tachypnea and hypoxia
   on [**2115-3-23**] and intubated on [**2115-3-24**].  Imaging findings consistent with
   multilobar pneumonia with sputum growing MRSA, complted 8 day course of
   vanc, cefepime, and flagyl on [**2115-3-31**]. Pleural effusions also noted on
   imaging, likely due to fluid resuscitation for hypotension in the
   setting of albumin of 2.3, so have been diuresing with lasix boluses.
   Extubated on [**2115-3-30**].  The current respiratory distress is likely due
   to mucous plugging, secretions with rhonchorous breath sounds on exam.
   Pulmonary edema may also be contributing.
   - suction and light chest PT as tolerated
   - continue gentle diuresis with lasix 40mg IV for TBB -500ml today
   - follow ABGs
   - morphine for grunting/resp distress as needed
   - will discuss non-invasive pressure ventilation if necessary with
   family
   .
   # Yeast bacteremia:  Patient continues to have low grade fevers, now
   with positive blood cultures growing yeast.  Possible urogenital source
   with hematogenous spread.  Heart rate and blood pressure currently at
   baseline.  Normal WBC count, lactate.
   - follow fever curve
   - lines removed and replaced
   - daily blood cultures
   - follow speciation and sensitivity
   - continue micafungin IV per ID day 1 = [**4-2**]
   - f/u ID recs
   - follow LFT, EKG while on micafungin
   - f/u PICC tip culture
   - f/u aspergillus, beta glucan
   .
   #Fevers:  Patient daily low grade febrile episodes despite broad
   spectrum antibiotics.  Completed treatment for pulmonary infection with
   8 day course of vancomycin, cefepime, flagyl.  SBP possible but 3 taps
   have not been c/w SBP.  PE considered but no evidence on CTA.  CT read
   as possible liver abscess but repeat RUQ ultrasound read as more
   consistent with infarct.  C. Diff has been negative.  Overnight
   positive urine and blood culture growing yeast. Repeat cultures of
   blood, urine ngtd.
   - treatment for yeast bloodstream infection as above
   -
   # Tachycardia: Likely hyperdynamic in setting of fever, infection.
   Volume status appears grossly euvolemic; pt mentating at baseline and
   maintaining urine output.  Echo with evidence of depressed cardiac fxn,
   ? tachycardia induced cardiomyopathy
   - Tylenol prn fever
   - Antimicrobial agents as above
   .
   # Anemia/bleed: Hct stable. Pt with RP bleed and CT evidence of
   hemorrhage into bowel wall, also gastric varices c/b GIB earlier in
   admission. Transfused 1 unit pRBCs [**3-25**] with appropriate bump and has
   remained stable since.
   - Trend Hct qd
   - Guaiac stools
   - Active T&S
   - PO pantoprazole
   - Continue iron supplement
   # Liver lesion. Noted on abdominal CT. Possible ischemia/infarction vs
   abscess. Abdominal U/S [**3-27**] not consistent with abscess.
   .
   # Left humeral fx: Likely d/t trauma sustained during radiology.
   - No surgical indication at this time
   - Pain control with lidoderm patch and morphine prn
   .
   # SMV thrombus: Plan for anticoagulation x 6 months but held in setting
   of recent GI and RP bleed.
   - Continue heparin SQ
   .
   # Seizure disorder: No recent reports of seizures. Caution as certain
   antibiotics may lower seizure threshold.
   - Continue phenobarbitol and phenytoin, but transition to PO route
   - Drug levels wnl on [**4-3**]
   .
   # Cerebral palsy: Stable mental status.  Interactive with family but
   nonverbal at baseline.
   - speech and swallow evaluation: advance diet
   .
   # Case Management
 likely d/c to rehab tomorrow.
   .
   FEN: continue tube feeds today; cleared for nectar thick liquids,
   pureed solids; needs 1:1 observation (mother may need to feed). OK to
   try crushed meds, but may not take reliably
   PROPHYLAXIS: pneumoboots, PO PPI, restart SC heparin
   ACCESS: PIV
   CODE: DNR/DNI. No CPR or defibrillation. Will clarify role for
   BIPAP/CPAP.
   ICU Care
   Nutrition:
   Vivonex (Full) - [**2115-4-3**] 09:48 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-4**] 04:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2115-04-04 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   35 yo man  with CP, respiratory failure.  has been doing well.
   Continued diuresis.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2115-4-2**] 01:56 AM
   Micafungin - [**2115-4-2**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   SSI
   lidocaine patch
   FeSO4
   pancrease
   phenobarb
   prevacid
   dilantin
   micafungin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-4-4**] 12:29 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**16**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 115 (108 - 128) bpm
   BP: 93/66(72) {85/11(35) - 101/69(76)} mmHg
   RR: 34 (18 - 36) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,440 mL
                                                                    833 mL
   PO:
             TF:
                                                                  1,200 mL
                                                                    490 mL
   IVF:
                                                                    240 mL
                                                                    123 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    160 mL
   Urine:
                                                                  1,960 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -520 mL
                                                                    673 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   149 K/uL
   157 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   25 mg/dL
   102 mEq/L
   139 mEq/L
   27.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2115-3-31**]  09:03 AM
                             [**2115-4-1**]  03:28 AM
                             [**2115-4-1**]  08:25 AM
                             [**2115-4-1**]  03:08 PM
                             [**2115-4-2**]  06:23 AM
                             [**2115-4-2**]  06:29 AM
                             [**2115-4-2**]  05:37 PM
                             [**2115-4-3**]  06:16 AM
                             [**2115-4-3**]  03:52 PM
                             [**2115-4-4**]  05:10 AM
   WBC
   7.3
   8.1
   6.7
   7.0
   Hct
   27.9
   26.5
   26.6
   27.7
   Plt
   137
   147
   146
   149
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   28
   28
   30
   Glucose
   148
   105
   159
   145
   65
   123
   157
   Other labs: PT / PTT / INR:15.0/24.2/1.3, CK / CKMB /
   Troponin-T:8//0.01, ALT / AST:18/32, Alk Phos / T Bili:178/0.3, Amylase
   / Lipase:/11, Differential-Neuts:86.9 %, Lymph:8.0 %, Mono:3.6 %,
   Eos:1.3 %, Lactic Acid:1.6 mmol/L, Albumin:2.5 g/dL, LDH:314 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 ALTERATION IN NUTRITION
 TACHYCARDIA, OTHER
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 FRACTURE, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**]):  Much improved today:
   Heart failure with valvular disease:  continue diuresis as he still has
   significant edema.
   Can restart s/q heparin
   Seizure disorder
   can consider removing NGTube if eating adequately.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2115-4-4**] 04:42 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes